US08541462B2
((S)-1-{(R)-6,8-Dichloro-3-[(S)-3-methyl-1-(1H-tetrazol-5-yl)-butylcarbamoyl]-2,3,4,9-tetrahydro-1H-carbazol-3-ylcarbamoyl}-2-methyl-butyl)-carbamic acid benzyl ester
0.122 g (0.19 mmol) of {(5)-1-[(R)-6,8-Dichloro-3-((S)-1-cyano-3-methyl-butylcarbamoyl)-2,3,4,9-tetrahydro-1H-carbazol-3-ylcarbamoyl]-2-methyl-butyl}-carbamic acid benzyl ester synthesized according to 84 (see below), 0.028 g (0.44 mmol) of sodium azide and 0.026 (0.48 mmol) of ammonium chloride were heated in 2 mL of DMF in a microwave at 110° C. and 100 watt for 6 h. The reaction solution was separated on a preparative HPLC column.

reactant | {(5)-1-[(R)-6,8-Dichloro-3-((S)-1-cyano-3-methyl-butylcarbamoyl)-2,3,4,9-tetrahydro-1H-carbazol-3-ylcarbamoyl]-2-methyl-butyl}-carbamic acid benzyl ester | 0.19 mmol, 0.122 g | C(C1=CC=CC=C1)OC(N[C@@H](C(CC)C)C(N[C@@]1(CCC=2NC3=C(C=C(C=C3C2C1)Cl)Cl)C(N[C@@H](CC(C)C)C#N)=O)=O)=O | C33H39Cl2N5O4
reactant | sodium azide | 0.44 mmol, 0.028 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | ((S)-1-{(R)-6,8-Dichloro-3-[(S)-3-methyl-1-(1H-tetrazol-5-yl)-butylcarbamoyl]-2,3,4,9-tetrahydro-1H-carbazol-3-ylcarbamoyl}-2-methyl-butyl)-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(N[C@@H](C(CC)C)C(N[C@@]1(CCC=2NC3=C(C=C(C=C3C2C1)Cl)Cl)C(N[C@@H](CC(C)C)C1=NN=NN1)=O)=O)=O | C33H40Cl2N8O4
